US04220647
A mixture of 1-(N-benzyloxycarbonyl-3,4,5-trimethoxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (4.4 g), conc. hydrochloric acid (45 ml) and acetic acid (45 ml) was refluxed for 1.5 hours in a stream of nitrogen. The reaction mixture was concentrated to dryness and the residue was washed with ether and acetone and crystallized with methanol to give 1-(3,4,5-trimethoxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.3 g). The product was recrystallized from water to give a pure product, mp 223° to 225° C.

reactant | 1-(N-benzyloxycarbonyl-3,4,5-trimethoxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 4.4 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC(=C(C(=C1)OC)OC)OC)CC1NCCC2=CC(=C(C=C12)O)O
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 1-(3,4,5-trimethoxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.3 g | Cl.COC=1C=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=C(C1OC)OC | InChI=1S/C19H24N2O5.ClH/c1-24-17-7-12(8-18(25-2)19(17)26-3)21-10-14-13-9-16(23)15(22)6-11(13)4-5-20-14;/h6-9,14,20-23H,4-5,10H2,1-3H3;1H
